US06001855
By coupling 2-guanidino-4-methyl-thiazole-5-carboxylic acid with tert.-butyl (R)-(pyrrolidin-3-ylmethoxy)-acetate according to the method given in Example 4 there is obtained tert.-butyl (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetate as a pale yellow resinous foam, [α]D =+3.2°, (MeOH, c=0.5), MS: 398 (M+H)+.

reactant | 2-guanidino-4-methyl-thiazole-5-carboxylic acid | N(C(=N)N)C=1SC(=C(N1)C)C(=O)O | C6H8N4O2S
reactant | tert.-butyl (R)-(pyrrolidin-3-ylmethoxy)-acetate | N1C[C@@H](CC1)COCC(=O)OC(C)(C)C | C11H21NO3
solvent | MeOH | CO | CH4O
product | tert.-butyl (R)-[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-pyrrolidin-3-ylmethoxy]-acetate | N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1C[C@@H](CC1)COCC(=O)OC(C)(C)C | C17H27N5O4S
